US05614633
A mixture of 0.09 g of 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-thioxo-1-pyridyl)-2H-1-benzopyran, 0.20 g of methyl iodide and 5 ml of tetrahydrofuran was refluxed for 50 minutes. To the mixture were added 57 mg of cyanamide and 13 mg of sodium hydride (60%) and the mixture was refluxed for 1.5 hours. Methylene chloride was added thereto and the mixture was filtered to remove insoluble materials. The mother liquor was distilled off and the resultant residue was purified using silica gel column chromatography (developing solution, AcOEt:hexane=1:1) to obtain 0.05 g of 4-(2-cyanoimino-1,2-dihydro-1-pyridyl)-2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran represented by the following formula having a melting point of 238°-240° C.

reactant | 2,2-bisfluoromethyl-6-nitro-4-(1,2-dihydro-2-thioxo-1-pyridyl)-2H-1-benzopyran | 0.09 g | FCC1(OC2=C(C(=C1)N1C(C=CC=C1)=S)C=C(C=C2)[N+](=O)[O-])CF | C16H12F2N2O3S
reactant | methyl iodide | 0.20 g | CI | CH3I
reactant | cyanamide | 57 mg | N#CN | CH2N2
reactant | sodium hydride | 13 mg | [H-].[Na+]
solvent | Methylene chloride | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 4-(2-cyanoimino-1,2-dihydro-1-pyridyl)-2,2-bisfluoromethyl-6-nitro-2H-1-benzopyran | 0.05 g | C(#N)N=C1N(C=CC=C1)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(CF)CF | C17H12F2N4O3
